US07592373B2
3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[3-methoxy-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride
Prepared analogously to Example 2.3.f. from 75 mg (0.30 mmol) of (2-chloro-4-trifluoromethylphenyl)propynoic acid and 79 mg (0.33 mmol) of [2-(2-methoxy-4-aminophenoxy)ethyl]diethylamine. Yield: 14 mg (10% of theory); C23H24ClF3N2O3 (M=468.90); calc.: molecular ion peak (M+H)+: 469/471; found: molecular ion peak (M+H)+: 469/471; Rf value: 0.35 (silica gel, dichloromethane/methanol (9:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | 0.30 mmol, 75 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | [2-(2-methoxy-4-aminophenoxy)ethyl]diethylamine | 0.33 mmol, 79 mg | COC1=C(OCCN(CC)CC)C=CC(=C1)N | C13H22N2O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[3-methoxy-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride | Cl.COC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | InChI=1S/C23H24ClF3N2O3.ClH/c1-4-29(5-2)12-13-32-20-10-9-18(15-21(20)31-3)28-22(30)11-7-16-6-8-17(14-19(16)24)23(25,26)27;/h6,8-10,14-15H,4-5,12-13H2,1-3H3,(H,28,30);1H
